US05859255
A solution containing 4-chloroquinoline (1.0 g, 6 mmol), iodine (l.55 g, 6 mmol) and triethylamine (0.60 g, 6 mmol) in CF2ClCFl2 (30 ml) was placed in a fluorination apparatus fitted with a drying tube filled with soda lime. Elemental fluorine (7 mmol) as a 10% mixture in dry nitrogen was then passed through the stirred solution at room temperature using narrow bore PTFE tubing at 20 ml/min. After the fluorine had been added the solution was poured into 10% aqueous sodium metabisulfite solution (30 ml) and extracted with dichloromethane. The organic extracts were dried and evaporated to a brown oil (1.01 g). GC/MS analysis showed a 76% conversion of starting material. Column chromatography on silica gel with dichloromethane as eluant gave 2 fluoro-4-chloroquinoline (0.76 g, 90%); m.p 60°-61° C. (vacuum sublimation oil bath temp. 50° C./<1 mmHg) as white needles; RF 0.78 (CH2CI2); (Found C, 59.7;H, 2.9; N, 7.6. C9H5NClF requires: C, 59.5; H, 2.75; N, 7.7%); δH (400 MHZ, CDCl3, Me4Si) 7.20 ppm (1H, d, JH,3,F 2.4, H-3), 7.62 (1H, d d d, JH5,H6 =JH6,H7 7.4, JH6,H8 1.2, H-6), 7.78 (1H, d d d, JH6,H7 =JH7,H8 7.8, JH5,H7 1.2, H-7), 7.96 (1H, d, JH7,H8 8.4, H-8), 8.19 (1H, d, HH5,H6 8.4, H-5); δF (235 MHz, CDCl3, CFCl3) -61.5 pm (s); δC (100 MHz, CDCl3, Me4Si) 110.2 ppm (d, 2J 45.8, C-3), 124.2 (d, 5J 0.8, C-5), 125.1 (d,4J 2.6, C-4a), 127.0 (d 6J 2.7, C-6), 128.5 (d, 4J 1.5, C-8), 131.6 (s, C-7), 145.9 (d, 3J 18, C-8a), 146.6 (d, 3J 12.5, C-4), 160.2 (d, 1J 242.3, C-2); m/z (E1+) 183 (M+, 26%), 181 (M+, 100%), 146 (35), 126 (15), 75 (12), 50 (11).

reactant | 4-chloroquinoline | 6 mmol, 1.0 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | iodine | 6 mmol, 55 g | II | I2
reactant | triethylamine | 6 mmol, 0.60 g | C(C)N(CC)CC | C6H15N
reactant | fluorine | 7 mmol | FF | F2
solvent | sodium metabisulfite | 30 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | fluoro-4-chloroquinoline | 0.76 g, 90% | FC1=NC2=CC=CC=C2C(=C1)Cl | C9H5ClFN
